US04007173
3-(1,2,3-Triazol-4-ylthiomethyl)-7-(α-amino-m-ureidophenylacetamido)-3-cephem-4-carboxylic acid
When 7-ACA, 4-mercapto-1,2,3-triazol, and α-t-butoxycarbonylamino-m-ureidophenylacetic acid are reacted according to the procedure of Example 5 the title compound is obtained.

reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 4-mercapto-1,2,3-triazol | SC=1N=NNC1 | C2H3N3S
reactant | α-t-butoxycarbonylamino-m-ureidophenylacetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC=C1)NC(=O)N | C14H19N3O5
product | 3-(1,2,3-Triazol-4-ylthiomethyl)-7-(α-amino-m-ureidophenylacetamido)-3-cephem-4-carboxylic acid | N1N=NC(=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(N)C2=CC(=CC=C2)NC(=O)N)=O)=O | C19H20N8O5S2
